US04733002
Preparation of 1-(3,4-dimethoxyphenyl)-3-oxo-1-octene
Under cooling with ice, to 70 ml of dry 1,2-dimethoxyethane containing 0.87 g of sodium hydride (50% mineral oil) was added dropwise 30 ml of dry 1,2-dimethoxyethane containing 4.0 g of dimethyl 2-oxoheptylphosphonate. Then, the mixture was stirred at room temperature for 1 hour and, after that, cooled at -30° C. Then, 3 ml of dry 1,2-dimethoxyethane containing 3.0 g of veratraldehyde was added dropwise. After dropping, the temperature was restored slowly to room temperature. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried with magnesium sulfate. The solvent was removed by distillation to obtain crude product. After purification of the crude product by means of column chromatography (silica gel/hexane:ethyl acetate=3:1), 1.3 g of the above caption compound was obtained.

reactant | 1,2-dimethoxyethane | 70 ml, 0.87 g | COCCOC | C4H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2-dimethoxyethane | 30 ml, 4.0 g | COCCOC | C4H10O2
reactant | dimethyl 2-oxoheptylphosphonate | O=C(CP(OC)(OC)=O)CCCCC | C9H19O4P
reactant | 1,2-dimethoxyethane | 3 ml, 3.0 g | COCCOC | C4H10O2
reactant | veratraldehyde | C(C1=CC(OC)=C(OC)C=C1)=O | C9H10O3
solvent | water | O | H2O
product | 1-(3,4-dimethoxyphenyl)-3-oxo-1-octene | 1.3 g | COC=1C=C(C=CC1OC)C=CC(CCCCC)=O | C16H22O3
